US07273877B2
4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid hydrazide was dissolved in DMF (20 mL) and treated with the 1,1′-carbonydiimidazole (2.90 g, 17.92 mmol). The mixture was stirred at room temperature for 24 hours. The solid was precipitate out. This material was isolated by filtration, washed well with water and hexanes, then dried to afford 4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-5-(5-oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-1H-pyridin-2-one as an off white solid (5.0 g, 71%). (APCI+) calcd for C14H10FIN4O3 428.16 (M+1), found 428.9. Anal. Calcd for C14H10FIN4O3: C, 39.27; H, 2.35; N, 13.09. Found: C, 39.55; H, 2.88; N, 13.12.

reactant | 4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid hydrazide | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1)=O)C)C(=O)NN | C13H12FIN4O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-5-(5-oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-1H-pyridin-2-one | FC1=C(C=CC(=C1)I)NC1=CC(N(C=C1C=1OC(NN1)=O)C)=O | C14H10FIN4O3
